US08227615B2
Preparation of 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-(hydroxy(2-methoxyphenyl)methyl)pyridin-2-yl)cyclopropanecarboxamide
1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-(2-methoxybenzoyl)pyridin-2-yl)cyclopropanecarboxamide (0.50 g, 1.2 mmol) was suspended in 25 mL of methanol. Sodium borohydride (0.454 g, 12.0 mmol) was added in small portions. After stirring for one hour the reaction mixture was evaporated to dryness and purified on 40 g of silica gel utilizing a gradient of 15-70% ethyl acetate in hexanes to yield the pure product as a white solid (0.2125 g, 0.5078 mmol, 42%). ESI-MS m/z calc. 418.6, found 419.3 (M+1)+. Retention time 2.59 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-(2-methoxybenzoyl)pyridin-2-yl)cyclopropanecarboxamide | 1.2 mmol, 0.50 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)C(C2=C(C=CC=C2)OC)=O | C24H20N2O5
reactant | Sodium borohydride | 12.0 mmol, 0.454 g | [BH4-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-(hydroxy(2-methoxyphenyl)methyl)pyridin-2-yl)cyclopropanecarboxamide | 0.5078 mmol, 0.2125 g, 42% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C=C2)C(C2=C(C=CC=C2)OC)O | C24H22N2O5
